US05599986
8.1.2 Synthesis of (E)-N-(2-(fluoromethylene)-4-(p-fluorophenyl)butyl)-N-formyl formamide
Combine sodium diformylamide (70 lb) and acetonitrile (903 lb). With agitation, add N,N-dimethylformamide (119 lb). Add a solution of (E)-1-chloro-2-(fluoromethylene)-4-(p-fluorophenyl)butane (126 lb) in toluene. Warm to 80° C. After 6 hours, add a 10% by weight solution of sodium chloride in water (1168 lb). Agitate for 15 minutes, separate the layers. Remove the organic layer to give the title compound as a solution in acetonitrile/N,N-dimethylformamide.

reactant | sodium diformylamide | 70 lb | C(=O)[N-]C=O.[Na+]
reactant | acetonitrile | 903 lb | C(C)#N | C2H3N
reactant | (E)-1-chloro-2-(fluoromethylene)-4-(p-fluorophenyl)butane | 126 lb | ClC/C(/CCC1=CC=C(C=C1)F)=C/F | C11H11ClF2
reactant | sodium chloride | [Cl-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 1168 lb | O | H2O
solvent | N,N-dimethylformamide | 119 lb | CN(C=O)C | C3H7NO
product | (E)-N-(2-(fluoromethylene)-4-(p-fluorophenyl)butyl)-N-formyl formamide | F\C=C(\CN(C=O)C=O)/CCC1=CC=C(C=C1)F | C13H13F2NO2
